US08754100B2
Synthesis of 5-hydroxy-3-(4-trifluoromethylphenyl)pentanenitrile
5-(tert-Butyldiphenylsilanylsilanyloxy)-3-(4-trifluoromethylphenyl)pentanenitrile (600 mg) was dissolved in tetrahydrofuran (6 mL), and tetrabutylammonium fluoride (1.5 mL) was added at room temperature. After two hours, the mixture was partitioned with water and ethyl acetate. The organic layer was washed with brine and then dried over magnesium sulfate. Concentration under reduced pressure gave an oil. The oil was purified by silica gel column chromatography (mobile phase:ethyl acetate/heptane=70%) to obtain the title compound (306 mg).

reactant | 5-(tert-Butyldiphenylsilanylsilanyloxy)-3-(4-trifluoromethylphenyl)pentanenitrile | 600 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)[SiH2]OCCC(CC#N)C1=CC=C(C=C1)C(F)(F)F | C28H32F3NOSi2
reactant | tetrabutylammonium fluoride | 1.5 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | 5-hydroxy-3-(4-trifluoromethylphenyl)pentanenitrile | 306 mg | OCCC(CC#N)C1=CC=C(C=C1)C(F)(F)F | C12H12F3NO
